US07446222B2
b) 4-Benzyloxy-3-bromobenzotrifluoride
A solution of 3-bromo-4-hydroxybenzotrifluoride (6.03 g, 25 mmol) in acetone (1000 ml) was treated with benzyl bromide (4.67 g, 3.25 ml, 27.5 mmol) and potassium carbonate (5.18 g, 37.5 mmol). The mixture was stirred and heated to reflux under nitrogen for 2 h. After cooling, diethyl ether (300 ml) and water (300 ml) were added and the aqueous phase re-extracted with diethyl ether (100 ml). The combined organic layers were washed with water, dried (MgSO4) and the solvent removed in vacuo. The orange oil was flash chromatographed (silica gel, 2-5% dichloromethane-isohexane) to give the title compound as a clear oil (7.0 g, 85%).

reactant | 3-bromo-4-hydroxybenzotrifluoride | 25 mmol, 6.03 g | BrC=1C=C(C=CC1O)C(F)(F)F | C7H4BrF3O
reactant | benzyl bromide | 27.5 mmol, 3.25 ml, 4.67 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 37.5 mmol, 5.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
solvent | water | 300 ml | O | H2O
product | 4-Benzyloxy-3-bromobenzotrifluoride | 7.0 g, 85% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br | C14H10BrF3O
